US05716954
8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one (14.2 g, 55 mole) and sodium hydride (50% in oil, 2.7 g, 55 mole) were mixed in 150 mL of 1-methyl-2-pyrrolidone and the mixture was heated to 55° C. In a separatory funnel, 4-picolyl chloride hydrochloride (11 g, 67 mmoles), 50 mL of saturated potassium carbonate and 150 mL of toluene were mixed. After separation, the toluene solution was added to the reaction mixture dropwise over the period of 30 minutes. The mixture was heated to 60° C. for an additional 30 minutes, cooled to room temperature and poured into 300 mL of water. The mixture was extracted twice with ethyl acetate (500 mL). After drying the organic fraction with sodium sulfate (50 g), filtering and removal of the solvent the crude product was crystallized from isopropyl acetate (300 mL). The material was filtered and dried to yield 10.5 grams of 6-(2-pyridylmethyl)-8-(3-chlorophenyl)-pyrido[2,3-d]pyridazin-5-one. An additional 4.6 grams of the product was obtained as a second crop by concentration of the filtrates and filtering the resulting crystalline mass.

reactant | 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one | 55 mole, 14.2 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
reactant | sodium hydride | 55 mole, 2.7 g | [H-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 67 mmoles, 11 g | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidone | 150 mL | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-pyridylmethyl)-8-(3-chlorophenyl)-pyrido[2,3-d]pyridazin-5-one | 10.5 grams | N1=C(C=CC=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)Cl | C19H13ClN4O
